US09315462B2
Step 1: Synthesis of 3-chloro-N-(2-fluoro-4-hydroxyphenyl)propanamide
4-Amino-3-fluorophenol (3.4 g) was mixed with 3-chloropropanoyl chloride (3.56 g) in acetone (60 mL) and heated at reflux over 3 hours. After aqueous work-up with EtOAc/water, the isolated organic layers were dried over Na2SO4 and concentrated in vacuo. The crude product was purified with silica gel chromatography to give the product (2.95 g) as a light brown solid.

reactant | 4-Amino-3-fluorophenol | 3.4 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | 3-chloropropanoyl chloride | 3.56 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 3-chloro-N-(2-fluoro-4-hydroxyphenyl)propanamide | 2.95 g | ClCCC(=O)NC1=C(C=C(C=C1)O)F | C9H9ClFNO2
